US04628059
3,5-Difluoro-4-methoxybenzyl isothiocyanate (11.7 g, 25.5 mmole) and formyl hydrazine (1.7 g, 28.7 mole) were refluxed in ethanol (30 ml) for one hour. The reaction was evaporated to dryness, triturated with hexane:ethyl acetate (1:1), filtered, and recrystallized from ethanol-hexane to yield 7.3 g (62%) of crude 4-(3',5'-difluoro-4'-methoxybenzyl)-1-formyl-3-thiosemicarbazide.

reactant | 3,5-Difluoro-4-methoxybenzyl isothiocyanate | 25.5 mmole, 11.7 g | FC=1C=C(CN=C=S)C=C(C1OC)F | C9H7F2NOS
reactant | formyl hydrazine | 28.7 mole, 1.7 g | C(=O)NN | CH4N2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(3',5'-difluoro-4'-methoxybenzyl)-1-formyl-3-thiosemicarbazide | 7.3 g, 62% | FC=1C=C(CNC(NNC=O)=S)C=C(C1OC)F | C10H11F2N3O2S
